US05594021
N-(4-bromo-3-methyl-5-isoxazolyl)-5-[3,5-bis(trifluoromethyl)phenyl]thiophene-2-sulfonamide was prepared in the same manner as in Example 2. Reaction of 2-chlorosulfonyl-5-[3,5-bis(trifluoromethyl)phenyl]thiophene (250 mg, 0.63 mmol) with 5-amino-4-bromo-3-methylisoxazole (118 mg, 0.67 mmol) yielded, after column chromatography using 5% MeOH/CHCl3, 115.2 mg N-(4-bromo-3-methyl-5-isoxazolyl)-5-[3,5-bis(trifluoromethyl)phenyl]thiophene-2-sulfonamide as a white powder (34% yield). A portion of this sample was further purified by preparative HPLC, m.p. 140° C.

reactant | 2-chlorosulfonyl-5-[3,5-bis(trifluoromethyl)phenyl]thiophene | 0.63 mmol, 250 mg | ClS(=O)(=O)C=1SC(=CC1)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F | C12H5ClF6O2S2
reactant | 5-amino-4-bromo-3-methylisoxazole | 0.67 mmol, 118 mg | NC1=C(C(=NO1)C)Br | C4H5BrN2O
solvent | MeOH CHCl3 | CO.C(Cl)(Cl)Cl
product | N-(4-bromo-3-methyl-5-isoxazolyl)-5-[3,5-bis(trifluoromethyl)phenyl]thiophene-2-sulfonamide | 115.2 mg, 34% yield | BrC=1C(=NOC1NS(=O)(=O)C=1SC(=CC1)C1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)C | C16H9BrF6N2O3S2
